US05684020
1-(Benzocyclobutan-1-ylmethyl)-4-(2,3-dihydrobenzo-1,4-dioxin-6-yl)piperazine
2.26 g (7.8×10-3 mol) of 1-hydroxymethylbenzocyclobutane tosylate, 1.7 g (7.8×10-3 mol) of 4-(2,3-dihydrobenzo-1,4-dioxin-6-yl)piperazine and 2.16 g (15.6×10-3 mol) of K2CO3 in 50 ml of methyl isobutyl ketone are mixed together. That mixture is heated at 100° C. for 8 hours and then cooled. The mixture is concentrated and the residue is taken up in water and ethyl acetate. Separation is carried out and the organic phase then extracted with 1N HCl. The aqueous phase is rendered basic with 1N NaOH and then extracted with methylene chloride and dried over MgSO4. The oil obtained is purified by flash chromatography (eluant CH2Cl2/CH3OH: 95/5). 1 g (yield=38%) of an oil that corresponds to the title compound is obtained, the dihydrochloride of which is prepared in acetonitrile. M.p. 242°-245° C.

reactant | 1-hydroxymethylbenzocyclobutane tosylate | 7.8×10-3 mol, 2.26 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.OCC1CC2=C1C=CC=C2
reactant | 4-(2,3-dihydrobenzo-1,4-dioxin-6-yl)piperazine | 7.8×10-3 mol, 1.7 g | O1CCOC2=C1C=CC(=C2)N2CCNCC2 | C12H16N2O2
reactant | K2CO3 | 15.6×10-3 mol, 2.16 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methyl isobutyl ketone | 50 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-(Benzocyclobutan-1-ylmethyl)-4-(2,3-dihydrobenzo-1,4-dioxin-6-yl)piperazine | C1(CC2=C1C=CC=C2)CN2CCN(CC2)C2=CC1=C(OCCO1)C=C2 | C21H24N2O2
